US05273986
A mixture of 4.8 g of 4-chloromethyl-2-cyclobutyl-thiazole, 7.0 g of triphenylphosphine and 125 ml of toluene was heated to reflux for 16 hr and then cooled to room temperature. The mixture was then filtered to yield 4.8 g of [(2-cyclobutyl-4-thiazolyl)methyl]triphenylphosphonium chloride.

reactant | 4-chloromethyl-2-cyclobutyl-thiazole | 4.8 g | ClCC=1N=C(SC1)C1CCC1 | C8H10ClNS
reactant | triphenylphosphine | 7.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | [(2-cyclobutyl-4-thiazolyl)methyl]triphenylphosphonium chloride | 4.8 g | [Cl-].C1(CCC1)C=1SC=C(N1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H25NPS.ClH/c1-4-13-23(14-5-1)28(24-15-6-2-7-16-24,25-17-8-3-9-18-25)19-22-20-29-26(27-22)21-11-10-12-21;/h1-9,13-18,20-21H,10-12,19H2;1H/q+1;/p-1
